US07807709B2
(3R*,4S*)-3-({Isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-[(methyl-phenylmethanesulfonyl-amino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (3R*,4R*)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (89 mg, 0.175 mmol) in CH2Cl2 (3 mL), alpha-toluenesulfonyl chloride (40 mg, 0.21 mmol) and triethylamine (30 μL, 0.21 mmol) are added under N2 atmosphere. The mixture is stirred overnight at RT, diluted with CH2Cl2 and poured into an aqueous saturated solution of NaHCO3. The organic layer is separated, and the aqueous one is extracted twice with CH2Cl2. The combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude product is purified by preparative HPLC (C18-ODB-AQ, 5 μm, 20×50 mm, YMC, eluent: CH3CN /H2O+0.1% HCOOH flow: 20 mL/min). The HPLC fractions are collected, and the resulting solution is lyophilized to afford the title product. TLC, Rf (CH2Cl2/MeOH 95:5)=0.3. tR (HPLC, Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 5.81 min.

reactant | (3R*,4R*)-3-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-methylaminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.175 mmol, 89 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C27H45N3O6
reactant | alpha-toluenesulfonyl chloride | 0.21 mmol, 40 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 0.21 mmol, 30 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (3R*,4S*)-3-({Isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-[(methyl-phenylmethanesulfonyl-amino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(S(=O)(=O)CC1=CC=CC=C1)C)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C34H51N3O8S
